US05420275
3-Amino-4,5-diethoxycarbonyl-6-dimethylamino-2-phenylpyridine
In 2 ml of ethyl acetate Was dissolved 52 mg of 3,4-diethoxycarbonyl-2-dimethylamino-5-nitro-6-phenylpyridine, whereto 50 mg of 10% Pd-C (50% wet) was added. Catalytic reduction reaction was conducted for 5.5 hours. After the catalyst was removed, the solvent was distilled off and the residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane 1:2).

reactant | 3,4-diethoxycarbonyl-2-dimethylamino-5-nitro-6-phenylpyridine | 52 mg | C(C)OC(=O)C=1C(=NC(=C(C1C(=O)OCC)[N+](=O)[O-])C1=CC=CC=C1)N(C)C | C19H21N3O6
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd-C | [Pd] | Pd
product | 3-Amino-4,5-diethoxycarbonyl-6-dimethylamino-2-phenylpyridine | NC=1C(=NC(=C(C1C(=O)OCC)C(=O)OCC)N(C)C)C1=CC=CC=C1 | C19H23N3O4
